US06479487B1
1-(2-Phenoxyethyl)-4-piperidone is prepared from 4-piperidone and 1-chloro-2-phenoxyethane essentially as described above in Example 38, Scheme C, step a.

reactant | 4-piperidone | N1CCC(CC1)=O | C5H9NO
reactant | 1-chloro-2-phenoxyethane | ClCCOC1=CC=CC=C1 | C8H9ClO
product | 1-(2-Phenoxyethyl)-4-piperidone | O(C1=CC=CC=C1)CCN1CCC(CC1)=O | C13H17NO2
